US06599917B1
c) 2-Benzyl-3-iodo-6-[(3R,4S)-3-hydroxy-4-methoxypyrrolidine-1-yl)pyridine
A 28% solution of sodium methoxide in 0.33 ml of methanol was added to a mixture of 7.5 g of 2-benzyl-3-iodo-6-[(3R,4S)-3-acetoxy-4-methoxypyrrolidine-1-yl]pyridine and 30 ml of methanol, followed by stirring at room temperature for 30 minutes in a nitrogen atmosphere. Water was added thereto, and the mixture was extracted with ethyl acetate. The organic phase was washed with brine, dried over anhydrous magnesium sulfate and then concentrated. The residue was subjected to silica gel column chromatography using 20-50% ethyl acetate, to give 6.7 g of the target compound.

reactant | sodium methoxide | C[O-].[Na+]
reactant | 2-benzyl-3-iodo-6-[(3R,4S)-3-acetoxy-4-methoxypyrrolidine-1-yl]pyridine | 7.5 g | C(C1=CC=CC=C1)C1=NC(=CC=C1I)N1C[C@H]([C@H](C1)OC)OC(C)=O | C19H21IN2O3
reactant | Water | O | H2O
solvent | methanol | 0.33 ml | CO | CH4O
solvent | methanol | 30 ml | CO | CH4O
product | 2-Benzyl-3-iodo-6-[(3R,4S)-3-hydroxy-4-methoxypyrrolidine-1-yl)pyridine | 6.7 g | C(C1=CC=CC=C1)C1=NC(=CC=C1I)N1C[C@H]([C@H](C1)OC)O | C17H19IN2O2
